* comparator-decision noise-tran pick-off -- vindiff=0.0mV seed=10000 corner=ss temp=-40.0C (issue #41)
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice ss
.temp -40.0
.param vdd_val = 1.8
.option rndseed=10000

Vdd VDD 0 dc {vdd_val}
Vclk CLK 0 PULSE(0 {vdd_val} 5.0n 0.1n 0.1n 2.4999999999999996n 17.6n)
Vinp VINP 0 dc 0.9 TRNOISE(0.000449125 3.7e-10 0 0)
Vinn VINN 0 dc 0.9 TRNOISE(0.000449125 3.7e-10 0 0)

* full committed fragment, with the steering pair's gates moved to
* the injected nodes GST_P/GST_N (sizing verbatim; the series
* trnoise sources carry the latch front-end's gate-referred rms):
* GENERATED FILE -- do not hand-edit. Regenerate with
* `python3 layout/extract_pex.py`; `--check` verifies the committed copy.
*
* the FULL post-layout comparator, as a FLAT device-level fragment
* interchangeable with sim/comparator-decision/testbench/comparator_core.spice.
* Derived from layout/comparator.extract.spice (`klt extract --parasitics`
* over layout/comparator.gds) by a name-level rewrite only: nets renamed to
* their schematic counterparts via layout/lvs-report.json's 12/12 net
* correspondence, device instances renamed to the schematic instance they
* pair with structurally. No R, C, or device parameter value is altered.
* See layout/extract_pex.py's module docstring for the full derivation, for
* why `klt pex` is not the path here, and for the disclosed res_high_po
* w=0.42um-drawn vs w=0.35um-schematic delta this fragment deliberately
* carries through.
*
* --- extractor's own parasitic-model disclosure, verbatim ---
* extracted by klt extract --deck sky130
* parasitic model (--parasitics):
* - capacitance: net-to-ground for every net's own (non-coupled) area/perimeter, plus net-to-net for the vertical-overlap coupling `coupling` describes below -- a coupled net pair gets a direct capacitor between their two hub nodes, not just capacitors to the deck's ground/substrate net
* - coupling: vertical overlap (crossover) unconditionally -- where one net's conductor on an adjacent metal level sits directly over another *distinct* net's conductor, that overlap area is charged between the two nets instead of to ground (issue #760) -- plus lateral (same-layer, sidewall) coupling, but only for a net pair naming one of the caller's declared `--critical-net` nets (issue #976): facing-edge length within that layer's own minimum-spacing lookback is charged between the two nets, *additively* (not deducted from either net's substrate fringe term, unlike the vertical case -- a known simplification). Any same-layer pair with neither side named `--critical-net`, and fringe shielding in general, are still not modelled
* - resistance: single lumped series resistance per net, distributed as a star across that net's device terminals (issue #592) -- not a per-segment, distributed RC ladder, *unless* `--distributed-rc` names this net via `--critical-net` (issue #977, Epic #709 Phase 2b): then the net's terminals are ordered along their approximate physical spread and its total R/C is broken into a chain of per-segment resistors (segment length proportional to inter-terminal distance) with a ground capacitor at each terminal node (proportional to its adjacent segment length/2), instead of one star hub -- still an approximation (terminal position is a device-placement proxy, not true per-segment routing geometry), but a strictly finer-grained one than the single-hub star
* - frequency: quasi-static -- one frequency-independent R and C per net; no skin effect, no distributed transmission-line behavior
*
* --- netlist ---
* device instance $1 r0 *1 6.17,41.14 nfet
XM_PINN__a OUTN1__t1 VINN__t0 TAILP__t0 GND__t11 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $2 r0 *1 7.91,41.14 nfet
XM_PINP__a OUTP1__t2 VINP__t0 TAILP__t4 GND__t12 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $3 r0 *1 11.67,40.39 nfet
XM_STN_P OUTP__t3 OUTP1__t4 TAIL2__t2 GND__t15 sky130_fd_pr__nfet_01v8 L=0.5 W=8 AS=3.36 AD=3.36 PS=16.84 PD=16.84
* device instance $4 r0 *1 30.67,24.39 nfet
XM_C1P GND__t6 OUTP1__t0 GND__t7 GND__t18 sky130_fd_pr__nfet_01v8 L=0.5 W=40 AS=16.8 AD=16.8 PS=80.84 PD=80.84
* device instance $5 r0 *1 2.67,45 nfet
XM_PTAIL TAILP__t1 VDD__t0 GND__t4 GND__t20 sky130_fd_pr__nfet_01v8 L=0.5 W=0.8 AS=0.336 AD=0.336 PS=2.44 PD=2.44
* device instance $6 r0 *1 15.67,45 nfet
XM_TAIL2 TAIL2__t0 CLKT__t0 GND__t5 GND__t16 sky130_fd_pr__nfet_01v8 L=0.5 W=8 AS=3.36 AD=3.36 PS=16.84 PD=16.84
* device instance $7 r0 *1 6.17,48.86 nfet
XM_PINP__b OUTP1__t3 VINP__t1 TAILP__t3 GND__t13 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $8 r0 *1 7.91,48.86 nfet
XM_PINN__b OUTN1__t2 VINN__t1 TAILP__t2 GND__t14 sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 AS=2.73 AD=2.73 PS=13.84 PD=13.84
* device instance $9 r0 *1 11.67,49.61 nfet
XM_STN_N OUTN__t0 OUTN1__t4 TAIL2__t1 GND__t17 sky130_fd_pr__nfet_01v8 L=0.5 W=8 AS=3.36 AD=3.36 PS=16.84 PD=16.84
* device instance $10 r0 *1 34.67,45 nfet
XM_CLKCAP GND__t3 CLKT__t1 GND__t2 GND__t21 sky130_fd_pr__nfet_01v8 L=0.5 W=20 AS=8.4 AD=8.4 PS=40.84 PD=40.84
* device instance $11 r0 *1 30.67,65.61 nfet
XM_C1N GND__t1 OUTN1__t3 GND__t0 GND__t19 sky130_fd_pr__nfet_01v8 L=0.5 W=40 AS=16.8 AD=16.8 PS=80.84 PD=80.84
* device instance $12 r0 *1 19.17,36.39 pfet
XM_LATP_P OUTP__t0 OUTN__t1 VDD__t1 VDD__t2 sky130_fd_pr__pfet_01v8 L=0.5 W=16 AS=6.72 AD=6.72 PS=32.84 PD=32.84
* device instance $13 r0 *1 23.17,40.39 pfet
XM_RST_P OUTP__t1 CLKT__t2 VDD__t3 VDD__t4 sky130_fd_pr__pfet_01v8 L=0.5 W=8 AS=3.36 AD=3.36 PS=16.84 PD=16.84
* device instance $14 r0 *1 23.17,49.61 pfet
XM_RST_N OUTN__t2 CLKT__t4 VDD__t7 VDD__t6 sky130_fd_pr__pfet_01v8 L=0.5 W=8 AS=3.36 AD=3.36 PS=16.84 PD=16.84
* device instance $15 r0 *1 19.17,53.61 pfet
XM_LATP_N OUTN__t3 OUTP__t2 VDD__t9 VDD__t8 sky130_fd_pr__pfet_01v8 L=0.5 W=16 AS=6.72 AD=6.72 PS=32.84 PD=32.84
* device instance $16 r0 *1 39.295,45 res_high_po
XR_CLKS CLKT__t3 CLK__t0 GND__t8 sky130_fd_pr__res_high_po l=1.75 w=0.42
* device instance $17 r0 *1 16.92,65.21 res_high_po
XR_LP OUTN1__t0 VDD__t10 GND__t9 sky130_fd_pr__res_high_po l=22 w=0.42
* device instance $18 r0 *1 16.92,66.03 res_high_po
XR_LN VDD__t5 OUTP1__t1 GND__t10 sky130_fd_pr__res_high_po l=22 w=0.42
* device instance _10_t0 r0 *1 0,0
R_OUTN1__t0_OUTN1 OUTN1__t0 OUTN1 205.381939195
* device instance _10_t1 r0 *1 0,0
R_OUTN1__t1_OUTN1 OUTN1__t1 OUTN1 280.231746194
* device instance _10_t2 r0 *1 0,0
R_OUTN1__t2_OUTN1 OUTN1__t2 OUTN1 154.59165359
* device instance _10_t3 r0 *1 0,0
R_OUTN1__t3_OUTN1 OUTN1__t3 OUTN1 356.844940692
* device instance _10_t4 r0 *1 0,0
R_OUTN1__t4_GST_N OUTN1__t4 GST_N 97.4871203292
* device instance _10 r0 *1 0,0
C_OUTN1_vsubs OUTN1 vsubs 8.98701e-15
* device instance _3_t0 r0 *1 0,0
R_CLKT__t0_CLKT CLKT__t0 CLKT 323.124615029
* device instance _3_t1 r0 *1 0,0
R_CLKT__t1_CLKT CLKT__t1 CLKT 209.575401071
* device instance _3_t2 r0 *1 0,0
R_CLKT__t2_CLKT CLKT__t2 CLKT 171.581642086
* device instance _3_t3 r0 *1 0,0
R_CLKT__t3_CLKT CLKT__t3 CLKT 339.245799727
* device instance _3_t4 r0 *1 0,0
R_CLKT__t4_CLKT CLKT__t4 CLKT 171.581642086
* device instance _3 r0 *1 0,0
C_CLKT_vsubs CLKT vsubs 9.151286e-15
* device instance _4_t0 r0 *1 0,0
R_TAILP__t0_TAILP TAILP__t0 TAILP 182.774925399
* device instance _4_t1 r0 *1 0,0
R_TAILP__t1_TAILP TAILP__t1 TAILP 165.53906635
* device instance _4_t2 r0 *1 0,0
R_TAILP__t2_TAILP TAILP__t2 TAILP 200.564491426
* device instance _4_t3 r0 *1 0,0
R_TAILP__t3_TAILP TAILP__t3 TAILP 182.774925399
* device instance _4_t4 r0 *1 0,0
R_TAILP__t4_TAILP TAILP__t4 TAILP 200.564491426
* device instance _4 r0 *1 0,0
C_TAILP_vsubs TAILP vsubs 4.373331e-15
* device instance _6_t0 r0 *1 0,0
R_OUTP1__t0_OUTP1 OUTP1__t0 OUTP1 400.516187427
* device instance _6_t1 r0 *1 0,0
R_OUTP1__t1_OUTP1 OUTP1__t1 OUTP1 346.153803467
* device instance _6_t2 r0 *1 0,0
R_OUTP1__t2_OUTP1 OUTP1__t2 OUTP1 116.565930898
* device instance _6_t3 r0 *1 0,0
R_OUTP1__t3_OUTP1 OUTP1__t3 OUTP1 152.895839366
* device instance _6_t4 r0 *1 0,0
R_OUTP1__t4_GST_P OUTP1__t4 GST_P 75.8687388416
* device instance _6 r0 *1 0,0
C_OUTP1_vsubs OUTP1 vsubs 8.461843e-15
* device instance _7_t0 r0 *1 0,0
R_TAIL2__t0_TAIL2 TAIL2__t0 TAIL2 172.298819269
* device instance _7_t1 r0 *1 0,0
R_TAIL2__t1_TAIL2 TAIL2__t1 TAIL2 310.069740366
* device instance _7_t2 r0 *1 0,0
R_TAIL2__t2_TAIL2 TAIL2__t2 TAIL2 310.069740366
* device instance _7 r0 *1 0,0
C_TAIL2_vsubs TAIL2 vsubs 4.013191e-15
* device instance CLK_t0 r0 *1 0,0
R_CLK__t0_CLK CLK__t0 CLK 62.6625
* device instance CLK r0 *1 0,0
C_CLK_vsubs CLK vsubs 5.85805e-16
* device instance GND_t0 r0 *1 0,0
R_GND__t0_GND GND__t0 GND 400.157201837
* device instance GND_t1 r0 *1 0,0
R_GND__t1_GND GND__t1 GND 400.157201837
* device instance GND_t2 r0 *1 0,0
R_GND__t2_GND GND__t2 GND 269.249053197
* device instance GND_t3 r0 *1 0,0
R_GND__t3_GND GND__t3 GND 269.249053197
* device instance GND_t4 r0 *1 0,0
R_GND__t4_GND GND__t4 GND 334.56391983
* device instance GND_t5 r0 *1 0,0
R_GND__t5_GND GND__t5 GND 95.7763400152
* device instance GND_t6 r0 *1 0,0
R_GND__t6_GND GND__t6 GND 463.02727577
* device instance GND_t7 r0 *1 0,0
R_GND__t7_GND GND__t7 GND 463.02727577
* device instance GND_t8 r0 *1 0,0
R_GND__t8_GND GND__t8 GND 355.358162106
* device instance GND_t9 r0 *1 0,0
R_GND__t9_GND GND__t9 GND 349.817042462
* device instance GND_t10 r0 *1 0,0
R_GND__t10_GND GND__t10 GND 364.921538254
* device instance GND_t11 r0 *1 0,0
R_GND__t11_GND GND__t11 GND 287.931836372
* device instance GND_t12 r0 *1 0,0
R_GND__t12_GND GND__t12 GND 257.968474618
* device instance GND_t13 r0 *1 0,0
R_GND__t13_GND GND__t13 GND 269.705253532
* device instance GND_t14 r0 *1 0,0
R_GND__t14_GND GND__t14 GND 237.452974888
* device instance GND_t15 r0 *1 0,0
R_GND__t15_GND GND__t15 GND 204.161437995
* device instance GND_t16 r0 *1 0,0
R_GND__t16_GND GND__t16 GND 95.7763400152
* device instance GND_t17 r0 *1 0,0
R_GND__t17_GND GND__t17 GND 171.881467668
* device instance GND_t18 r0 *1 0,0
R_GND__t18_GND GND__t18 GND 463.02727577
* device instance GND_t19 r0 *1 0,0
R_GND__t19_GND GND__t19 GND 400.157201837
* device instance GND_t20 r0 *1 0,0
R_GND__t20_GND GND__t20 GND 334.56391983
* device instance GND_t21 r0 *1 0,0
R_GND__t21_GND GND__t21 GND 269.249053197
* device instance GND r0 *1 0,0
C_GND_vsubs GND vsubs 3.5595668e-14
* device instance OUTN_t0 r0 *1 0,0
R_OUTN__t0_OUTN OUTN__t0 OUTN 284.046924274
* device instance OUTN_t1 r0 *1 0,0
R_OUTN__t1_OUTN OUTN__t1 OUTN 443.410715137
* device instance OUTN_t2 r0 *1 0,0
R_OUTN__t2_OUTN OUTN__t2 OUTN 218.362747862
* device instance OUTN_t3 r0 *1 0,0
R_OUTN__t3_OUTN OUTN__t3 OUTN 257.762012728
* device instance OUTN r0 *1 0,0
C_OUTN_vsubs OUTN vsubs 1.1631209e-14
* device instance OUTP_t0 r0 *1 0,0
R_OUTP__t0_OUTP OUTP__t0 OUTP 257.461971301
* device instance OUTP_t1 r0 *1 0,0
R_OUTP__t1_OUTP OUTP__t1 OUTP 218.108568165
* device instance OUTP_t2 r0 *1 0,0
R_OUTP__t2_OUTP OUTP__t2 OUTP 442.894573981
* device instance OUTP_t3 r0 *1 0,0
R_OUTP__t3_OUTP OUTP__t3 OUTP 283.716286553
* device instance OUTP r0 *1 0,0
C_OUTP_vsubs OUTP vsubs 1.1348877e-14
* device instance VDD_t0 r0 *1 0,0
R_VDD__t0_VDD VDD__t0 VDD 343.954328656
* device instance VDD_t1 r0 *1 0,0
R_VDD__t1_VDD VDD__t1 VDD 258.158292306
* device instance VDD_t2 r0 *1 0,0
R_VDD__t2_VDD VDD__t2 VDD 258.158292306
* device instance VDD_t3 r0 *1 0,0
R_VDD__t3_VDD VDD__t3 VDD 197.717136176
* device instance VDD_t4 r0 *1 0,0
R_VDD__t4_VDD VDD__t4 VDD 197.717136176
* device instance VDD_t5 r0 *1 0,0
R_VDD__t5_VDD VDD__t5 VDD 362.663727008
* device instance VDD_t6 r0 *1 0,0
R_VDD__t6_VDD VDD__t6 VDD 94.7048868853
* device instance VDD_t7 r0 *1 0,0
R_VDD__t7_VDD VDD__t7 VDD 94.7048868853
* device instance VDD_t8 r0 *1 0,0
R_VDD__t8_VDD VDD__t8 VDD 101.909354803
* device instance VDD_t9 r0 *1 0,0
R_VDD__t9_VDD VDD__t9 VDD 101.909354803
* device instance VDD_t10 r0 *1 0,0
R_VDD__t10_VDD VDD__t10 VDD 345.643203995
* device instance VDD r0 *1 0,0
C_VDD_vsubs VDD vsubs 2.0145914e-14
* device instance VINN_t0 r0 *1 0,0
R_VINN__t0_VINN VINN__t0 VINN 203.46265
* device instance VINN_t1 r0 *1 0,0
R_VINN__t1_VINN VINN__t1 VINN 203.46265
* device instance VINN r0 *1 0,0
C_VINN_vsubs VINN vsubs 1.601158e-15
* device instance VINP_t0 r0 *1 0,0
R_VINP__t0_VINP VINP__t0 VINP 203.837
* device instance VINP_t1 r0 *1 0,0
R_VINP__t1_VINP VINP__t1 VINP 203.837
* device instance VINP r0 *1 0,0
C_VINP_vsubs VINP vsubs 1.757421e-15
* device instance cc__10__4 r0 *1 0,0
C_OUTN1_TAILP OUTN1 TAILP 2.8778e-17
* device instance cc__10__6 r0 *1 0,0
C_OUTN1_OUTP1 OUTN1 OUTP1 8.9015e-17
* device instance cc__10_VDD r0 *1 0,0
C_OUTN1_VDD OUTN1 VDD 3.6142e-17
* device instance cc__10_VINP r0 *1 0,0
C_OUTN1_VINP OUTN1 VINP 1.2047e-17
* device instance cc__3_GND r0 *1 0,0
C_CLKT_GND CLKT GND 6.4921e-17
* device instance cc__3_OUTN r0 *1 0,0
C_CLKT_OUTN CLKT OUTN 2.4095e-17
* device instance cc__3_OUTP r0 *1 0,0
C_CLKT_OUTP CLKT OUTP 3.8484e-17
* device instance cc__3_VDD r0 *1 0,0
C_CLKT_VDD CLKT VDD 2.1229e-17
* device instance cc__4__6 r0 *1 0,0
C_TAILP_OUTP1 TAILP OUTP1 2.8778e-17
* device instance cc__4_VINN r0 *1 0,0
C_TAILP_VINN TAILP VINN 4.9036e-17
* device instance cc__6_VDD r0 *1 0,0
C_OUTP1_VDD OUTP1 VDD 3.6142e-17
* device instance cc__6_VINN r0 *1 0,0
C_OUTP1_VINN OUTP1 VINN 1.2471e-17
* device instance cc__6_VINP r0 *1 0,0
C_OUTP1_VINP OUTP1 VINP 1.2047e-17
* device instance cc__7_GND r0 *1 0,0
C_TAIL2_GND TAIL2 GND 2.8778e-17
* device instance cc__7_OUTN r0 *1 0,0
C_TAIL2_OUTN TAIL2 OUTN 3.8484e-17
* device instance cc__7_OUTP r0 *1 0,0
C_TAIL2_OUTP TAIL2 OUTP 2.6437e-17
* device instance cc_GND_OUTN r0 *1 0,0
C_GND_OUTN GND OUTN 1.2047e-17
* device instance cc_GND_OUTP r0 *1 0,0
C_GND_OUTP GND OUTP 1.2047e-17
* device instance cc_OUTN_OUTP r0 *1 0,0
C_OUTN_OUTP OUTN OUTP 4.819e-17
* device instance cc_OUTN_VDD r0 *1 0,0
C_OUTN_VDD OUTN VDD 6.5086e-17
* device instance cc_OUTP_VDD r0 *1 0,0
C_OUTP_VDD OUTP VDD 6.5086e-17
* device instance vsubs_dctie r0 *1 0,0
R_vsubs_0 vsubs 0 1e+12
*
* Substrate tie: the extractor grounds `vsubs` only through a 1e12 ohm
* DC tie, which leaves it floating for AC/transient and would couple
* every net's ground capacitance net-to-net instead of to ground.
* The physical substrate is at GND, so tie it.
Vvsubs vsubs 0 dc 0

Vstp GST_P OUTP1 dc 0 TRNOISE(0.000301156 3.7e-10 0 0)
Vstn GST_N OUTN1 dc 0 TRNOISE(0.000301156 3.7e-10 0 0)

.control
tran 0.002n 7.6n
wrdata noise_tran_pickoff.csv v(OUTP) v(OUTN)
.endc
.end
